US07723336B2
6-((4-Amino-1-piperidinyl)methyl)-N-phenylimidazo[1,2-b]pyridazin-8-amine
In a Parr bottle was added 6-((4-(benzylamino)piperidin-1-yl)methyl)-N-(4-methoxybenzyl)-N-phenylimidazo[1,2-b]pyridazin-8-amine (0.030 g, 0.056 mmol) from (1e), MeOH (7 ml), Pd/C (0.030 mg, 0.282 μmol) and AcOH (0.020 ml, 0.349 mmol). Added hydrogen to a pressure of 55 psi and let shake overnight. The suspension was filtered through celite and rinsed with MeOH, concentrated, and then diluted with TFA (1 ml). The mixture was allowed to stir at room temperature for 6 hours, concentrated and diluted with MeOH (2 ml) and purified by HPLC (10-75% MeOH/Water) to provide the title compound (0.009 g, 49.6% yield) as a TFA salt. 1H NMR (500 MHz, MeOH) δ ppm 8.08 (1H, d, J=2.75 Hz), 7.76 (1H, d, J=2.75 Hz), 7.47 (2H, dd, J=7.56, 3.44 Hz), 7.40-7.45 (2H, m), 7.25-7.31 (1H, m), 6.78 (1H, d, J=3.67 Hz), 4.40 (2H, d, J=3.21 Hz), 3.74 (2H, d, J=11.00 Hz), 3.46 (1H, d, J=3.67 Hz), 3.22 (2H, t, J=12.14 Hz), 2.25 (2H, d, J=14.20 Hz), 2.00 (2H, m). LC/MS, m/z 323 (M+1). HPLC Rt, 1.04 min. Waters Sunfire C18 column (4.6×50 mm). 0%-100% B. Solvent B: (90% MeOH, 10% H2O, 0.1% TFA). Solvent A: (10% MeOH, 90% H2O, 0.1% TFA). Gradient, start % B=0, final % B=100, gradient time 4 min, hold at 100% B 1 min, flow rate 4 mL/min.

reactant | 6-((4-(benzylamino)piperidin-1-yl)methyl)-N-(4-methoxybenzyl)-N-phenylimidazo[1,2-b]pyridazin-8-amine | 0.056 mmol, 0.030 g | C(C1=CC=CC=C1)NC1CCN(CC1)CC=1C=C(C=2N(N1)C=CN2)N(C2=CC=CC=C2)CC2=CC=C(C=C2)OC | C33H36N6O
reactant | AcOH | 0.349 mmol, 0.020 ml | CC(=O)O | C2H4O2
reactant | hydrogen | [H][H] | H2
reactant | TFA | C(=O)(C(F)(F)F)O | C2HF3O2
catalyst | Pd/C | 0.282 μmol, 0.030 mg | [Pd] | Pd
solvent | MeOH | 7 ml | CO | CH4O
product | 6-((4-Amino-1-piperidinyl)methyl)-N-phenylimidazo[1,2-b]pyridazin-8-amine | 0.009 g, 49.6% yield | NC1CCN(CC1)CC=1C=C(C=2N(N1)C=CN2)NC2=CC=CC=C2 | C18H22N6
